US06656952B2
3-(S)-tert-Butoxycarbonylamino-4-(S)-fluoromethyl-N-[1-(R)-phenylethyl]-2-pyrrolidone
Di-tert-butyl dicarbonate (3.01 g, 13.79 mmol) and 10% palladium on carbon catalyst (1.80 g) were added to an ethanol (100 ml) solution of 3-(S)-azido-4-(S)-fluoromethyl-N-[1-(R)-phenylethyl]-2-pyrrolidone (1.81 g, 6.90 mmol), and the mixture was subjected to overnight catalytic hydrogenation at room temperature. After removal of the catalyst by filtration, the solvent of the resulting filtrate was evaporated, and the thus obtained residue was subjected to a silica gel chromatography. From the eluate of ethyl acetate:hexane=1:2, 1.68 g (72%) of the title compound was obtained as white crystals.

reactant | Di-tert-butyl dicarbonate | 13.79 mmol, 3.01 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-(S)-azido-4-(S)-fluoromethyl-N-[1-(R)-phenylethyl]-2-pyrrolidone | 6.90 mmol, 1.81 g | N(=[N+]=[N-])[C@@H]1C(N(C[C@@H]1CF)[C@H](C)C1=CC=CC=C1)=O | C13H15FN4O
catalyst | palladium on carbon | 1.80 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-(S)-tert-Butoxycarbonylamino-4-(S)-fluoromethyl-N-[1-(R)-phenylethyl]-2-pyrrolidone | 1.68 g, 72% | C(C)(C)(C)OC(=O)N[C@@H]1C(N(C[C@@H]1CF)[C@H](C)C1=CC=CC=C1)=O | C18H25FN2O3
